US08748418B2
To a solution of [(R)-5-(5-amino-2-fluoro-phenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl]-[bis-(4-methoxy-phenyl)-phenyl-methyl]-amine (intermediate A12A) (40 mg, 69.5 μmol) in toluene (0.6 ml) in a sealable tube was added subsequently at 23° C. and under an argon atmosphere 4-bromobenzonitrile (25.3 mg, 139 μmol), sodium tert-butoxide (13.4 mg, 139 μmol), 2-di-t-butylphosphino-2′,4′,6′-triisopropylbiphenyl (2.95 mg, 6.95 μmol) and tris(dibenzylideneacetone) dipalladium chloroform adduct (2.16 mg, 2.08 μmol), the tube was sealed and heated to 105 to 110° C. for 17 h. The mixture was cooled to 23° C., partitioned between saturated aqueous NaHCO3 and ethyl acetate, the organic layer was dried and evaporated to give the crude product, which was purified by silica gel flash chromatography with n-heptane/ethyl acetate and trituration with diethyl ether/pentane to give the (R)-4-(3-(3-(bis(4-methoxyphenyl)(phenyl)methylamino)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenylamino)benzonitrile (23 mg, 49%) as a light yellow crystalline. MS (ISN): m/z=675.5 [M−H]−.

reactant | [(R)-5-(5-amino-2-fluoro-phenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl]-[bis-(4-methoxy-phenyl)-phenyl-methyl]-amine | 69.5 μmol, 40 mg | NC=1C=CC(=C(C1)[C@]1(N=C(COCC1(F)F)NC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C)F | C33H32F3N3O3
reactant | 4-bromobenzonitrile | 139 μmol, 25.3 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | sodium tert-butoxide | 139 μmol, 13.4 mg | CC(C)([O-])C.[Na+]
reactant | 2-di-t-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 6.95 μmol, 2.95 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | toluene | 0.6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium chloroform adduct | 2.08 μmol, 2.16 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (R)-4-(3-(3-(bis(4-methoxyphenyl)(phenyl)methylamino)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenylamino)benzonitrile | 23 mg, 49% | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(NC=1COCC([C@@](N1)(C)C=1C=C(C=CC1F)NC1=CC=C(C#N)C=C1)(F)F)C1=CC=C(C=C1)OC | C40H35F3N4O3
